US05364871
Bromine (1.3 g) was added slowly to a suspension of 4-acetylthiazole-2-carboxamide (1.3 g) in methanol (50 ml). The mixture was stirred for 3.5 hours at room temperature. The solvent was removed under reduced pressure to give 4-bromoacetylthiazole-2-carboxamide. The above residue and diaminomethylenethiourea (900 mg) were suspended in ethanol (50 ml) and the mixture was refluxed for 24 hours. The resulting precipitate was collected by filtration and suspended in water (50 ml). The mixture was alkalized to pH 11 with a saturated aqueous potassium carbonate solution. The resulting precipitate was collected by filtration. Recrystallization from methanol afforded 4-[2-(diaminomethyleneamino)thiazol-4-yl]thiazole-2-carboxamide (1.05 g).

reactant | Bromine | 1.3 g | BrBr | Br2
reactant | 4-acetylthiazole-2-carboxamide | 1.3 g | C(C)(=O)C=1N=C(SC1)C(=O)N | C6H6N2O2S
solvent | methanol | 50 ml | CO | CH4O
product | 4-bromoacetylthiazole-2-carboxamide | BrCC(=O)C=1N=C(SC1)C(=O)N | C6H5BrN2O2S
